US07319099B2
(c) 4-(4-Oxazol-2-yl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
Prepared in analogy to example 4.4 (a) from 2-(4-Bromo-phenyl)-oxazole and N-BOC -piperazine. MS (m/e): 330.3 (MH+, 100%)

reactant | 2-(4-Bromo-phenyl)-oxazole | BrC1=CC=C(C=C1)C=1OC=CN1 | C9H6BrNO
reactant | N-BOC -piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
product | 4-(4-Oxazol-2-yl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1OC=CN1 | C18H23N3O3
